Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old man with history of
non-insulin dependent diabetes mellitus, HTN, HLD, seronegative
inflammatory arhtirits on plaquenil presenting from PCPs office
with orthostatic hypotension.

He was seen by his PCP ___ ___ for dizziness, where he reported
that  for the past fifteen days he has been experiencing 
anorexia
with poor PO intake, as well as lightheadness. He has had
subjective fevers and chills at home. He has had a frontal
headache and he notes that he has been experiencing worsening
pain in his right lower back radiating down to his right leg. He
has had no rhinorrhea or sore throat. No cough or SOB. No chest
pain. No nausea, vomiting or diarrhea. No dysuria or increased
urinary frequency. No melena or hemtaochezia. Due to lack of
appetite he has experienced an approximately ten pound weight
loss in the past two weeks. He has no sick contacts or recent
travel. At his PCP's office he was noted to be orthostatic with
SBP drop 170->150 and to be looking unwell, so he was referred 
to
the ___ ED. 

In the ED, initial VS were: T 101.3 HR 80 BP 169/90 RR 16 O2 sat
98% RA 
 
Exam notable for:
General: Alert, oriented, unwell appearing. 
HEENT: Normocephalic, atraumatic. Pupils are equal, round, and
reactive to light and accommodation constricting from 3.5 mm to
3.0 mm bilaterally. EOMI in all cardinal directions of gaze
without nystagmus. Vision is grossly intact, hearing grossly
intact. Nares patent with no nasal discharge. Oral cavity and
pharynx are without inflammation, swelling, exudate, or lesions.
Mucous membranes are dry. Teeth and gingiva in fair general
condition.
Neck: Neck supple, non-tender without lymphadenopathy, masses or
thyromegaly.
Cardiac: Normal S1 and S2. No S3, S4 or murmurs. Rhythm is
regular. Pulmonary: Clear to auscultation without rales, 
rhonchi,
wheezing or diminished breath sounds.
Abdomen: Normoactive bowel sounds. Soft, nondistended, 
nontender.
No guarding or rebound. No masses.
Musculoskeletal: ROM intact in spine and extremities. There is
tenderness along right low back to palpation.
Neuro: Alert and oriented x3. No gross focal deficits. 
Skin: Skin type IV. Skin normal color, texture and turgor with 
no
lesions or eruptions.

ECG: Normal sinus rhythm, normal axis and intervals, no ST
changes 
Labs showed hyperglycemia with A1C 10.5, and UA with proteins,
glucose, and ketones, and CRP<2. 
Imaging significant for MRI spine without cord compression or
epidural collection. 

Patient received 1L NS and 1L D51/2 NS, vancomycin, cefepime,
gabapentin. 

On arrival to the floor, patient was interviewed with ___
interpreter over the phone, and endorses the history above. He
reports he is feeling somewhat better, but that he has 
persistent
right sided back and leg pain. Also endorses diffuse myalgias 
and
generalized weakness. 

 
Past Medical History:
DM2 with diabetic nephropathy
HTN
Hyperlipidemia
Tremor
Depression
Glaucoma
Autoimmune Arthritis
Back pain
 
Social History:
___
Family History:
Sister with ___ disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
GENERAL: Lying in bed, arouses to voice, appears diaphoretic and
uncomfortable
HEENT: AT/NC, anicteric sclera, MMM, no oropharyngeal edema or
exudate
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
BACK: TTP in right paraspinal muscles, no vertebral tenderness 
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: NAD, AOx3, ___ speaking only
HEENT: AT/NC, anicteric sclera, MMM, no oropharyngeal edema or
exudate
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
===============
___ 01:55PM BLOOD WBC-7.8 RBC-4.90 Hgb-14.2 Hct-42.8 MCV-87 
MCH-29.0 MCHC-33.2 RDW-12.3 RDWSD-39.3 Plt ___
___ 01:55PM BLOOD Neuts-55.3 ___ Monos-13.3* 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-4.30 AbsLymp-2.33 
AbsMono-1.03* AbsEos-0.04 AbsBaso-0.01
___ 01:55PM BLOOD ___ PTT-25.9 ___
___ 01:55PM BLOOD Glucose-182* UreaN-17 Creat-0.9 Na-135 
K-4.5 Cl-95* HCO3-27 AnGap-13
___ 01:55PM BLOOD ALT-38 AST-41* AlkPhos-75 TotBili-1.1
___ 06:56AM BLOOD TotProt-6.6 Calcium-8.4 Phos-3.2 Mg-1.9
___ 03:14PM BLOOD %HbA1c-10.5* eAG-255*
___ 06:56AM BLOOD TSH-1.1
___ 01:55PM BLOOD CRP-1.2
___ 02:07PM BLOOD Lactate-1.8
___ 05:19PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:19PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-70* Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:19PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 10:52AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

DISCHARGE LABS
==============
___ 07:23AM BLOOD WBC-6.3 RBC-4.49* Hgb-12.5* Hct-39.1* 
MCV-87 MCH-27.8 MCHC-32.0 RDW-12.0 RDWSD-38.5 Plt ___
___ 07:23AM BLOOD Glucose-186* UreaN-13 Creat-0.8 Na-140 
K-4.2 Cl-103 HCO3-26 AnGap-11
___ 07:23AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0

MICRO
====
___ 10:52 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 5:19 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 1:55 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 1:55 pm BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING
========
CXR ___
Low lung volumes.  Possible mild pulmonary vascular congestion.  
Patchy 
opacities in the lung bases could reflect atelectasis with 
infection not 
excluded in the correct clinical setting. 

MRI T AND L SPINE W AND W/O CONTRAST ___. No evidence of infection or neoplasm. 
2. Moderate central canal narrowing T10-T11 level, mild cord 
effacement, 
possible subtle central cord T2 signal abnormality, no 
enhancement. 
3. Counting from the cervical spine, 6 lumbar vertebra are seen. 

4. Degenerative changes lumbar spine, moderate central canal and 
severe 
bilateral foraminal narrowing L5-S6 level. 

 
Brief Hospital Course:
___ year old man with history of non-insulin dependent diabetes 
mellitus, HTN, HLD, seronegative inflammatory arhtirits on 
plaquenil presenting from PCPs office with orthostatic 
hypotension and flu-like sx's.

ACUTE ISSUES:
===============
#Fevers
# Flu-like illness
# Orthostatic Hypotension: Fever accompanied by diffuse myalgias
and malaise, I/s/o findings suggestive of acute sinusitis,
suggestive of viral process. Flu swab negative. Low suspicion 
for
occult bacterial process given UA and MRI spine without evidence
of this and CRP <2. CXR unable to rule out PNA, though 
clinically
presentation is not consistent with this. No meningismus. No 
risk
factors for TB/HIV. Sx's, especially I/s/o 10 lb weight loss,
concerning for possible malignancy, but acute time course of 15
days less suggestive of that, and he is UTD on preventative
screening. His orthostatic hypotension is likely ___ poor PO
intake I/s/o acute illness, exacerbated by known DMII. Pt 
symptomatically much improved soon after admission, likely ___ 
IVF resuscitation. One dose of broad spectrum abx given in ED, 
but otherwise not treated for a bacterial infxn. Respiratory 
viral panel pending on discharge. Orthostatics on day of 
discharge negative, ___ cleared patient to go home. Patient 
symptoms were greatly improved on discharge.

#Back pain: Suspect pain is part of diffuse myalgia syndrome. 
MRI
spine without infectious focus or cord compression. Continued 
home gabapentin. As above, cleared by ___ for home d/c.

#DM2: Poor control on oral agents. No history of insulin use. 
Held home sitaglpitin, metformin and glipizide upon arrival, 
restarted at time of d/c. Given poor control, consider initation 
of insulin as OP.

CHRONIC ISSUES:
===============
#HTN: as above, held home lisinopril and triamterene-HCTZ 
initially, restarted at time of d/c.

#HLD:
-Continued home pravastatin 

#Tremors:
-continued home propanolol 

#Inflammatory arthritis:
-Continued home plaquenil
-Continued home gabapentin 

# Contact: ___ (daughter) ___

TRANSITIONAL ISSUES
[]Patient with poor glycemic control. Consider starting insulin 
as outpatient
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 300 mg PO QHS 
2. GlipiZIDE XL 10 mg PO BID 
3. Hydroxychloroquine Sulfate 200 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Naproxen 250 mg PO Q12H:PRN Pain - Mild 
7. olopatadine 0.1 % ophthalmic (eye) BID 
8. Pravastatin 40 mg PO QPM 
9. Propranolol 40 mg PO BID 
10. SITagliptin 25 mg oral DAILY 
11. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
12. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
13. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
3.  Gabapentin 300 mg PO QHS  
4.  GlipiZIDE XL 10 mg PO BID  
5.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Naproxen 250 mg PO Q12H:PRN Pain - Mild  
9.  olopatadine 0.1 % ophthalmic (eye) BID  
10.  Pravastatin 40 mg PO QPM  
11.  Propranolol 40 mg PO BID  
12.  SITagliptin 25 mg oral DAILY  
13.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Flu-like Illness
Orthostatic Hypotension

SECONDARY DIAGNOSIS
===================
Diabetes Mellitus II
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___!

You were admitted for flu like symptoms. We noted you were very 
dehydrated and gave you some fluids. This made you feel better. 
Based on your testing, you likely have a viral illness that is 
similar to the flu, and as a result, became dehydrated when you 
weren't eating or drinking very much. Please drink plenty of 
fluids when you get home, and follow up with your primary care 
physician.

We wish you the best of health,

Your ___ Care Team
 
Followup Instructions:
___